US05965740
To 0.25 g (1 mmol) of 5-(2-chloromethyl-α-methoxybenzyl)-3-methylthiazole, 2 ml of N,N-dimethylformamide, 0.28 g (2 mmol) of potassium carbonate and 0.33 g (2 mmol) of 2,5-dichlorophenol were added and stirred at 80° C. for 3 hours. After completion of the reaction, 100 ml of ether was added and washed twice with 80 ml of brine. The ether layer was dried over anhydrous magnesium and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/n-hexane) and recrystallized from ether/n-hexane to give 5-[2-(2,5-dichlorophenoxymethyl)-α-methoxybenzyl]-3-methylthiazole (0.28 g, 74.0%) as colorless crystals. mp. 78.5-79.5° C.

reactant | 5-(2-chloromethyl-α-methoxybenzyl)-3-methylthiazole | 1 mmol, 0.25 g | ClCC1=C(C(OC)C2=CN(CS2)C)C=CC=C1 | C13H16ClNOS
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 2 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,5-dichlorophenol | 2 mmol, 0.33 g | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 5-[2-(2,5-dichlorophenoxymethyl)-α-methoxybenzyl]-3-methylthiazole | 0.28 g, 74.0% | ClC1=C(OCC2=C(C(OC)C3=CN(CS3)C)C=CC=C2)C=C(C=C1)Cl | C19H19Cl2NO2S
